US07365088B2
(iii) 4-(4-Amino-phenyl)-morpholin-3-one
To a solution of 2.6 g 4-(4-Nitro-phenyl)-morpholin-3-one in 350 mL ethyl acetate and 17 mL ethanol 13.2 g SnCl2 dihydrate were added and the reaction mixture was heated to reflux for 2 h. Then after cooling to RT the mixture was stirred for 16 h. The precipitated product was collected by filtration and was pure enough for the next reaction step. Yield: 2.07 g.

reactant | 4-(4-Nitro-phenyl)-morpholin-3-one | 2.6 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(COCC1)=O | C10H10N2O4
reactant | ethanol | 17 mL, 13.2 g | C(C)O | C2H6O
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-Amino-phenyl)-morpholin-3-one | NC1=CC=C(C=C1)N1C(COCC1)=O | C10H12N2O2
